US04766125
To a stirred and warm solution of 3 parts of 2-piperazinecarboxamide in 16 parts of 2-methoxyethanol were added 51.2 parts of 2-propanone. The whole was stirred and refluxed for 20 hours. The reaction mixture was evaporated. The solid residue was crystallized from acetonitrile, yielding 2.5 parts (64%) of hexahydro-3,3-dimethylimidazo[1,5-a]pyrazin-1(5H)-one; mp. 174.2° C. (intermediate 83).

reactant | 2-piperazinecarboxamide | N1C(CNCC1)C(=O)N | C5H11N3O
reactant | 2-methoxyethanol | COCCO | C3H8O2
reactant | 2-propanone | CC(C)=O | C3H6O
product | hexahydro-3,3-dimethylimidazo[1,5-a]pyrazin-1(5H)-one | 64% | CC1(NC(C2N1CCNC2)=O)C | C8H15N3O
